US07378456B2
Methyl Acetate Norbornene/CANB Copolymer
Methyl acetate norbornene (MeOAc NB, CAS 10471-2406) (2.99 g, 17.99 mmol), CANB (0.36 g, 2.02 mmol), 1-hexene (0.19 g, 0.0022 mol), DAN FABA (0.00321 g, 0.004 mmol) and anisole (14 mL) were combined in a dry 30 mL Wheaton bottle. The anisole was degassed to remove any dissolved oxygen by passing a stream of nitrogen gas through the liquid for 30 minutes. To this solution was added Pd 785 (0.0090 g, 0.004 mmol) dissolved in dichloroethane (0.5 mL). After addition, the solution was processed as in S9 and after drying, 3.21 g (95.8%) of copolymer was obtained. The molecular weight was determined by GPC in monochlorobenzene to be Mw=714,346 and Mn=89,454 daltons and Polydispersity Index=7.98. The composition of the copolymer was determined by 1H-NMR to be 91 mole % MeOAc NB and 9 mole % CANB.

reactant | MeOAc | COC(=O)C | C3H6O2
reactant | monochlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | Methyl Acetate Norbornene | C12C=CC(CC1)C2.C(C)(=O)OC | InChI=1S/C7H10.C3H6O2/c1-2-7-4-3-6(1)5-7;1-3(4)5-2/h1-2,6-7H,3-5H2;1-2H3
